US05817670
Under ice-cooling, potassium tert-butoxide (623 mg, 5 mmol) was added to tetrahydrofuran (10 ml) solution of N-[3-(3-chlorobenzoyl)-2-pyridyl]-N-methylacetamide (1.40 g, 5 mmol), and the mixture was stirred at room temperature for 30 minutes. The reaction solution was mixed with water and extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration, the filtrate was concentrated under reduced pressure and the resulting residue was purified by silica gel column chromatography (benzene-ethyl acetate) to give 4-(3-chlorophenyl)-1-methyl-1,8-naphthyridin-2(1H)-one (709 mg, 54%).

reactant | potassium tert-butoxide | 5 mmol, 623 mg | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | N-[3-(3-chlorobenzoyl)-2-pyridyl]-N-methylacetamide | 5 mmol, 1.40 g | ClC=1C=C(C(=O)C=2C(=NC=CC2)N(C(C)=O)C)C=CC1 | C15H13ClN2O2
solvent | water | O | H2O
product | 4-(3-chlorophenyl)-1-methyl-1,8-naphthyridin-2(1H)-one | 709 mg, 54% | ClC=1C=C(C=CC1)C1=CC(N(C2=NC=CC=C12)C)=O | C15H11ClN2O
